US05064564
To a solution of 1.38 g (10.4 mmol) of aluminum chloride in 10 ml of dimethyl sulfide (Me2S) was added, with cooling with ice, a solution of 267 mg (1 mmol) of (1R,2S)-1-cyano-2-hexyl-1-(4-methoxyphenyl)cyclopropane in 10 ml of dichloromethane. This mixture was stirred with heating for 30 minutes. Saturated sodium hydrogen carbonate aqueous solution was added to the reaction mixture, and the mixture was then subjected to extraction with 250 ml of ethyl acetate. The resulting ethyl acetate solution was washed with saturated sodium chloride aqueous solution, dried with anhydrous magnesium sulfate, and then concentrated. The residue was separated and purified by column chromatography (Kieselgel 60, hexane/ethyl acetate=5/1), thereby obtaining 197 mg (yield 81%) of (1R,2S)-1-cyano-2-hexyl-1-(4-hydroxyphenyl)cyclopropane.

reactant | aluminum chloride | 10.4 mmol, 1.38 g | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | (1R,2S)-1-cyano-2-hexyl-1-(4-methoxyphenyl)cyclopropane | 1 mmol, 267 mg | C(#N)[C@]1([C@H](C1)CCCCCC)C1=CC=C(C=C1)OC | C17H23NO
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | dimethyl sulfide | 10 ml | CSC | C2H6S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | (1R,2S)-1-cyano-2-hexyl-1-(4-hydroxyphenyl)cyclopropane | 197 mg, yield 81% | C(#N)[C@]1([C@H](C1)CCCCCC)C1=CC=C(C=C1)O | C16H21NO
